US07705028B2
4b) Methyl 3-[(2,6-dichlorophenyl)methyl]-5-(1-methylethyl)-4-isoxazolecarboxylate
A solution of methyl isobutyrylacetate (1.93 g, 13.4 mmol) in tetrahydrofuran (2.7 mL) was stirred at 0° C. as 0.5 N sodium methoxide in methanol solution (27 mL, 13.5 mmol) was added. A solution of 2-(2,6-dichlorophenyl)-N-hydroxyethanimidoyl chloride (2.60 g, 11.18 mmol) in tetrahydrofuran (8.7 mL) was added and the solution was allowed to warm to room temperature and stir overnight. The mixture was concentrated then partitioned between water and ethyl acetate. The organic layer was dried with magnesium sulfate, filtered, and concentrated. The residue was purified by chromatography (silica gel, 0%-30% ethyl acetate in hexane) to provide the title compound (1.10 g, 30%). 1HNMR (DMSO-d6): δ 7.48 (d, J=8 Hz, 2H), 7.34 (t, J=8 Hz, 1H), 4.42 (s, 2H), 3.84 (s, 3H), 3.68 (septet, J=7 Hz, 1H), 1.24 (d, J=7 Hz, 6H).

reactant | methyl isobutyrylacetate | 13.4 mmol, 1.93 g | C(C(C)C)(=O)CC(=O)OC | C7H12O3
reactant | sodium methoxide | 0.5 N | C[O-].[Na+]
reactant | methanol | 13.5 mmol, 27 mL | CO | CH4O
reactant | 2-(2,6-dichlorophenyl)-N-hydroxyethanimidoyl chloride | 11.18 mmol, 2.60 g | ClC1=C(C(=CC=C1)Cl)CC(=NO)Cl | C8H6Cl3NO
solvent | tetrahydrofuran | 2.7 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8.7 mL | O1CCCC1 | C4H8O
product | Methyl 3-[(2,6-dichlorophenyl)methyl]-5-(1-methylethyl)-4-isoxazolecarboxylate | 1.10 g, 30% | ClC1=C(C(=CC=C1)Cl)CC1=NOC(=C1C(=O)OC)C(C)C | C15H15Cl2NO3
